US07442803B2
After putting 19 g (60 mmol) of 3-bromo-9-phenylcarbazole, 340 mg (0.6 mmol) of bis(dibenzylideneacetone)palladium(0), 1.6 g (3.0 mmol) of 1,1-bis(diphenylphosphino)ferrocene, and 13 g (180 mmol) of sodium tert-butoxide into a three-neck flask and replacing the air in the flask with nitrogen, 110 mL of anhydrous xylene and 7.0 g (75 mmol) of aniline were added. This was stirred for 7.5 hours while heating at 90° C. in a nitrogen atmosphere. After the reaction, about 500 mL of hot toluene was added to the suspension and the mixture was filtered through florisil, alumina, and Celite®. The obtained filtrate was concentrated and hexane-ethyl acetate was added thereto, and then the mixture was irradiated with ultrasonic waves. The obtained suspension was filtered and the residue was dried, thereby obtaining 15 g (yield: 75%) of 3-(N-phenylamino)-9-phenylcarbazole (abbr.: PCA) as a cream-colored powder.

reactant | 3-bromo-9-phenylcarbazole | 60 mmol, 19 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12BrN
reactant | sodium tert-butoxide | 180 mmol, 13 g | CC(C)([O-])C.[Na+]
reactant | xylene | 110 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | aniline | 75 mmol, 7.0 g | NC1=CC=CC=C1 | C6H7N
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.6 mmol, 340 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 3.0 mmol, 1.6 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | toluene | about 500 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(N-phenylamino)-9-phenylcarbazole | 15 g, yield: 75% | C1(=CC=CC=C1)NC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C24H18N2
